US07960545B2
Into a 3.0 Lt four necked round bottomed flask, equipped with a mechanical stirrer, reflux condenser, pressure equalizing addition funnel and thermometer socket are charged chloroform (500 ml), 6,7-diacetoxy-4(3H)-quinazolinone (25 g) obtained from the process described in step (ii) of example (1) and dimethylformamide (3 ml). Thionyl chloride (46.2 g) was slowly added in about 20-30 minutes. The reaction mass was slowly heated to reflux temperature and maintained at reflux temperature for 6 hours. Reaction was found to be over by HPLC. Cooled to 45-50° C. then added chloroform (500 ml) and distilled out 500 ml of chloroform. Repeated the distillation process another two times with fresh chloroform. Then cooled the reaction mass to 20° C. 3-Ethynylaniline (15 g) was added and maintained for 2-3 hours at 20-25° C. Completion of the reaction is monitored by HPLC. Distilled of the solvent completely under vacuum. Cooled the reaction mass to 20-25° C. and triturated with isopropyl alcohol and filtered and washed the cake with isopropyl alcohol and dried to get N-(3-ethynylphenyl)-6,7-diacetoxy-4-quinazolinamine hydrochloride 28 g (73.6% by theory).

reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 6,7-diacetoxy-4(3H)-quinazolinone | 25 g | C(C)(=O)OC=1C=C2C(NC=NC2=CC1OC(C)=O)=O | C12H10N2O5
reactant | Thionyl chloride | 46.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(3-ethynylphenyl)-6,7-diacetoxy-4-quinazolinamine hydrochloride | 28 g, 73.6% | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC(C)=O | InChI=1S/C20H15N3O4.ClH/c1-4-14-6-5-7-15(8-14)23-20-16-9-18(26-12(2)24)19(27-13(3)25)10-17(16)21-11-22-20;/h1,5-11H,2-3H3,(H,21,22,23);1H
